US07557213B2
Experimental conditions analogous to those described for Step 4 of Example 60 were used with 1.60 g (4.55 mmol) of 6,7-Dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester, 0.33 g (13.66 mmol) of lithium hydroxide, 100 mL of water and 50 mL of methanol to afford 1.26 g of 6,7-Dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid.

reactant | 6,7-Dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | 4.55 mmol, 1.60 g | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)C)C)CC1=NC(=CC=C1)C | C20H21N3O3
reactant | lithium hydroxide | 13.66 mmol, 0.33 g | [OH-].[Li+]
reactant | water | 100 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 6,7-Dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid | 1.26 g | CC=1C=C2C(C(=CN(C2=NC1C)CC1=NC(=CC=C1)C)C(=O)O)=O | C18H17N3O3
